US09238639B2
A) Methyl((3S)-5-bromo-6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetate
To a mixture of methyl((3S)-6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetate (10 g) in THF (dry) (192 mL) was added N-bromosuccinimide (8.55 g) at 0° C. The mixture was gradually warmed to room temperature and stirred at room temperature for 1.5 day. The mixture was quenched with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (13.78 g).

reactant | methyl((3S)-6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetate | 10 g | COC(C[C@@H]1COC2=C1C=CC(=C2)O)=O | C11H12O4
reactant | N-bromosuccinimide | 8.55 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 192 mL | C1CCOC1 | C4H8O
product | Methyl((3S)-5-bromo-6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetate | 13.78 g | COC(C[C@@H]1COC2=C1C=C(C(=C2)O)Br)=O | C11H11BrO4
